US06949550B2
Part D: Preparation of 1-(4-methoxyphenyl)-6-[2′-({methyl[(methylamino)carbonyl]amino}methyl)-1,1′-biphenyl-4-yl]-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxamide
Ethyl 1-(4-methoxyphenyl)-6-[2′-({methyl[(methylamino)carbonyl]amino}methyl)-1,1′-biphenyl-4-yl]-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylate (130 mg, 0.2 mmol) was dissolved in 7.5 mL of 1,4-dioxane. Concentrated NH4OH (7.5 mL) was added. The reaction vessel was sealed and the mixture was stirred at room temperature for 4 days. The mixture was stripped and chromatographed using 3% MeOH:CHCl3 with 0.1% concentrated NH4OH. The fractions containing desired product were combined and purified by reverse phase HPLC (C18 reverse phase column, eluted with a H2O/CH3CN gradient with 0.05% TFA) to give 71 mg of desired product (48% yield). MS (ES+): 539.4, (M+H)+. 1HNMR (CDCl3) δ 7.48 (t, 2H), 7.39-7.19 (m, 9H), 6.95 (m, 3H), 6.00 (bs, 1H), 4.47 (s, 2H), 4.189 (t, 2H), 3.83 (s, 3H), 3.41 (t, 2H), 2.77 (s, 3H), 2.72 (s, 3H) ppm.

reactant | Ethyl 1-(4-methoxyphenyl)-6-[2′-({methyl[(methylamino)carbonyl]amino}methyl)-1,1′-biphenyl-4-yl]-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylate | 0.2 mmol, 130 mg | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)C2=C(C=CC=C2)CN(C(=O)NC)C)=O)C(=O)OCC | C32H33N5O5
reactant | NH4OH | 7.5 mL | [NH4+].[OH-]
solvent | 1,4-dioxane | 7.5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-methoxyphenyl)-6-[2′-({methyl[(methylamino)carbonyl]amino}methyl)-1,1′-biphenyl-4-yl]-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxamide | 71 mg, 48% yield | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)C2=C(C=CC=C2)CN(C(=O)NC)C)=O)C(=O)N | C30H30N6O4
